US07525717B2
2,2′-(1,2-Phenylene)bis(1H-benzimidazole)
To a flask were added 50 g polyphosphoric acid. After heating to 90 C under nitrogen, a mixture of 2.7 g 1,2-phenylenediamine and 2.1 g phthalic acid were added. The reaction mixture was heated to 180 C for 4 hours, then cooled to 130 C and poured into 150 ml water. The mixture was basified with aqueous ammonium hydroxide. After cooling to 5 C, the product was filtered and washed with water. After drying, 3.3 g of a gray solid remained.

reactant | 1,2-phenylenediamine | 2.7 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | phthalic acid | 2.1 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 150 ml | O | H2O
product | 2,2′-(1,2-Phenylene)bis(1H-benzimidazole) | C1(=C(C=CC=C1)C1=NC2=C(N1)C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C20H14N4
